US06177449B1
N-[6-(3-Ethoxypropoxy)-2,2-dimethylchroman-4-yl]-N-ethyl-methanesulfonamide
1.5 g (5 mmol) of N-[2,2-dimethyl-6-hydroxychroman-4-yl]-N-ethyl-methanesulfonamide were heated to 80° C. for 30 min with 1.38 g (10 mmol) of powdered potassium carbonate in 60 ml of DMA. 4 ml of 3-ethoxy-1-bromopropane were then added dropwise at 50-60° C., the mixture was heated to 110° C. for 2 h and concentrated in vac. after cooling, the residue was treated with water and aqueous hydrochloric acid, the mixture was extracted with EA, the organic phase was dried and concentrated, and the oily residue was chromatographed on silica gel using n-heptane/EA (2:1). 0.9 g of N-[6-(3-ethoxypropoxy)-2,2-dimethylchroman-4-yl]-N-ethyl-methanesulfonamide was crystallized from appropriate fractions using petroleum ether, m.p. 72-74° C.

reactant | N-[2,2-dimethyl-6-hydroxychroman-4-yl]-N-ethyl-methanesulfonamide | 5 mmol, 1.5 g | CC1(OC2=CC=C(C=C2C(C1)N(S(=O)(=O)C)CC)O)C | C14H21NO4S
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-ethoxy-1-bromopropane | 4 ml | C(C)OCCCBr | C5H11BrO
solvent | DMA | 60 ml | CC(=O)N(C)C | C4H9NO
product | N-[6-(3-Ethoxypropoxy)-2,2-dimethylchroman-4-yl]-N-ethyl-methanesulfonamide | C(C)OCCCOC=1C=C2C(CC(OC2=CC1)(C)C)N(S(=O)(=O)C)CC | C19H31NO5S
